US08022205B2
Bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (81 mg), palladium acetate (1.7 mg), S-Phos (6.2 mg), 4-chloropicolinic acid t-butylamide (64 mg) and potassium phosphate (64 mg) were stirred in dimethylformamide (1.5 ml) under an argon atmosphere at 100° C. for 2 days. The reaction mixture was cooled to room temperature, and subsequently diluted with water (20 ml), followed by extraction with ethyl acetate (10 ml). The organic layer was washed with brine, and dried over sodium sulfate. After filtering off the drying agent, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/0 to 3/1), to obtain 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-pyridine-2-carboxylic acid tert-butylamide as a pale yellow solid (44 mg, 41%). The above compound was dissolved in trifluoroacetic acid (3 ml), and refluxed for 5 hours in the presence of N-acetylcysteine (33 mg, 3.3 equivalents). The reaction mixture was concentrated under reduced pressure, and water (2 ml) was added to the resulting residue, followed by neutralization with saturated sodium bicarbonate water. The resulting precipitate was filtered and dried, and purified by amino silica gel column chromatography (dichloromethane), to obtain a colorless powder (17 mg, 58%).

reactant | Bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 81 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | S-Phos | 6.2 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | 4-chloropicolinic acid t-butylamide | 64 mg | C(C)(C)(C)NC(C1=NC=CC(=C1)Cl)=O | C10H13ClN2O
reactant | potassium phosphate | 64 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
catalyst | palladium acetate | 1.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-pyridine-2-carboxylic acid tert-butylamide | 44 mg, 41% | C(C)(C)(C)NC(=O)C1=NC=CC(=C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C40H45N9O4
